US09227976B2
Step 3: Synthesis of N-[4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide
A degassed solution of phenylacetylene (3.9 ml, 35 mmol) and Et3N (36 mL) in DMF (13.5 mL) was added to N-[4-iodo-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide (4.5 g, 14 mmol), CuI (530 mg, 2.8 mmol) and PdCl2(PPh3)2 (980 mg, 1.4 mmol) under an atmosphere of N2. The reaction was then heated to 85° C. for 3.5 h. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography (silica gel, ethyl acetate/isohexane 1:9 to 1:0) yielding the title compound as a brown oil (3 g) which was used in the subsequent step.

reactant | phenylacetylene | 35 mmol, 3.9 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | Et3N | 36 mL | CCN(CC)CC | C6H15N
reactant | N-[4-iodo-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide | 14 mmol, 4.5 g | IC=1C(=NNC1NC(C)=O)C(F)(F)F | C6H5F3IN3O
solvent | DMF | 13.5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 2.8 mmol, 530 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 1.4 mmol, 980 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide | 3 g | C1(=CC=CC=C1)C#CC=1C(=NNC1NC(C)=O)C(F)(F)F | C14H10F3N3O
